US03974161
C. Ethyl 7-Chloropyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate
A mixture of 6-chloro-2-aminoquinoline-3-carboxamide (2.2 g., 0.01 mole), sodium hydride (0.52 g., 0.012 mole as 56% dispersion in oil) and N,N-dimethylformamide (20 ml.) is added to a solution of diethyl oxalate (5 ml.) and N,N-dimethylformamide (5 ml.). The reaction mixture is stirred for fifteen minutes, a second portion of sodium hydride (0.52 g., 0.012 mole) added and stirring continued for an additional fifteen minutes. Acetic acid (25.0 ml.) is cautiously added to the mixture followed by water (50 ml.). The tan precipitate is removed by filtration and dried (2.0 g. of crude ester). It is purified by chromatography on silica gel using chloroform:2B ethanol (99:1) as eluant. The product, recovered by concentration of the eluate, is recrystallized from acetic acid. Yield = 1.3 g. (37.3%). M.P. 260.5° C. (dec.). Mass spectra gave m/e = 303.

reactant | 6-chloro-2-aminoquinoline-3-carboxamide | 0.01 mole, 2.2 g | ClC=1C=C2C=C(C(=NC2=CC1)N)C(=O)N | C10H8ClN3O
reactant | sodium hydride | 0.012 mole, 0.52 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | diethyl oxalate | 5 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.012 mole, 0.52 g | [H-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | Acetic acid | 25.0 ml | C(C)(=O)O | C2H4O2
product | Ethyl 7-Chloropyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate | ClC=1C=C2C=C3C(=NC2=CC1)N=C(NC3=O)C(=O)OCC | C14H10ClN3O3
